US07396958B2
N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-3,4-dimethoxy-N-(2-{[(methylamino)carbonyl]amino}ethyl)benzenesulfonamide (compound 253)
To 0.42 g of phenyl(2-{[4-chloro-2-(2,6-difluorobenzyl)phenyl][(3,4-dimethoxyphenyl)sulfonyl]amino}ethylcarbamate in 1.2 ml of dimethyl sulfoxide is added, at room temperature, 0.053 ml of an aqueous solution of methylamine, and the mixture is left at room temperature for 18 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel to give 0.326 g of the expected product.

reactant | 2-{[4-chloro-2-(2,6-difluorobenzyl)phenyl][(3,4-dimethoxyphenyl)sulfonyl]amino}ethylcarbamate | ClC1=CC(=C(C=C1)N(CCNC([O-])=O)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1F)F
reactant | methylamine | CN | CH5N
solvent | dimethyl sulfoxide | 1.2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-3,4-dimethoxy-N-(2-{[(methylamino)carbonyl]amino}ethyl)benzenesulfonamide | 0.326 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CCNC(=O)NC)CC1=C(C=CC=C1F)F | C25H26ClF2N3O5S
